US05117057
Preparation of N'-(1,1-dimethyl-3-butenyl)-N,N'-dibenzoylhydrazine
The 1,1-dimethyl-3-butenylhydrazine oxalate (2 g) was dissolved in toluene and neutralized with 50% aqueous sodium hydroxide. To this solution was added benzoyl chloride (2.8 9) and sodium hydroxide (50% Aq. solution) (3.2 g) at 25° C. The reaction mixture was warmed to room temperature and stirred. The mixture was diluted with hexane and filtered to afford an oily product which solidified upon standing. (m.p. 105°-112° C.)

reactant | 1,1-dimethyl-3-butenylhydrazine oxalate | 2 g | C(C(=O)O)(=O)O.CC(CC=C)(C)NN
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | sodium hydroxide | 3.2 g | [OH-].[Na+]
product | N'-(1,1-dimethyl-3-butenyl)-N,N'-dibenzoylhydrazine | CC(CC=C)(C)N(NC(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C20H22N2O2
